US07338959B2
N-(1-methyl-5-{methyl[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]amino}-1H-benzimidazol-2-yl)benzamide
To a solution of benzoic acid (51 mg, 0.402 mmol) in N,N-dimethylformamide (2 ml) was added 1,1′-carbonyldiimidazole (65.2 mg, 0.400 mmol). The mixture was stirred for 30 minutes at room temperature and then a solution of N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine (88 mg, 0.201 mmol) and triethylamine (0.03 ml, 0.201 mmol) in N,N-dimethylformamide (2 ml) was added. The reaction mixture was stirred for 16 h, quenched with saturated sodium bicarbonate solution (30 ml) and the product then precipitated. The crude product was filtered, washed with water, diethyl ether and air dried to give the desired product without further purification. 1H NMR (400 MHz, d6-DMSO) δ 12.82 (s, 1H), 9.28 (s, 1H), 8.28 (d, J=7.3 Hz, 2H), 7.89 (d, J=6.1 Hz, 1H), 7.74 (d, J=8.2 Hz, 2H), 7.59 (d, J=8.4 Hz, 1H), 7.51-7.44 (m, 4H), 7.25-7.20 (m, 3H), 5.79 (d, J=5.9 Hz, 1H), 4.34 (s, 2H), 3.77 (s, 3H), 3.47 (s, 3H), 2.84 (s, 3H). MS (ESI) m/z=542 [M+H]+.

reactant | benzoic acid | 0.402 mmol, 51 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1,1′-carbonyldiimidazole | 0.400 mmol, 65.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N5,1-dimethyl-N5-[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]-1H-benzimidazole-2,5-diamine | 0.201 mmol, 88 mg | CN(C1=CC2=C(N(C(=N2)N)C)C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)CS(=O)(=O)C | C21H23N7O2S
reactant | triethylamine | 0.201 mmol, 0.03 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(1-methyl-5-{methyl[2-({4-[(methylsulfonyl)methyl]phenyl}amino)pyrimidin-4-yl]amino}-1H-benzimidazol-2-yl)benzamide | CN1C(=NC2=C1C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C)C)NC(C2=CC=CC=C2)=O | C28H27N7O3S
